### PR TITLE
[Merged by Bors] - feat(RingTheory/IdealFilter): add ideal filters and Gabriel filters

### PR DESCRIPTION
**Pull request by farmanb**
This PR introduces ideal filters on a ring and the notion of a Gabriel filter.

Main additions:
* `IdealFilter A`: filters on the lattice of ideals of a ring `A`
* `IsUniform`: the uniformity (T1–T3) condition
* `gabrielComposition` and notation `•`
* `IsGabriel`: Gabriel filters (axiom T4)
* A characterization `IsGabriel ↔ IsUniform ∧ F • F = F`

This is preparatory infrastructure for future work relating Gabriel filters to Giraud subcategories.
This development is motivated by Theorem 10.2 in Bo Stenström, *Rings and Modules of Quotients*, which identifies equivalence classes of Giraud subcategories with linear (Gabriel) topologies on a ring.
The present PR provides the ring-theoretic filter infrastructure needed for that result.

---

- [ ] depends on: #33390
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,262 @@
...
+  constructor <;> intro h_a
+  · rcases Submodule.mem_colon.mp h_a with h
+    refine Submodule.mem_colon.mpr ?_
+    intro p h_p
+    exact (h p h_p).1
+  · rcases Submodule.mem_colon.mp h_a with h
+    refine Submodule.mem_colon.mpr ?_
+    intro p h_p
+    exact ⟨h p h_p,
+      (Ideal.span_singleton_le_iff_mem K).mpr h_k (Submodule.smul_mem (Ideal.span {k}) a h_p)⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]: This could be generalized to `(L ⊓ K).colon M = L.colon M` if `M ≤ K` right? And this should not live in this file.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,262 @@
...
+
+/-- Intersecting the left ideal with `K` does not change `IsTorsionQuot` on the right. -/
+lemma isTorsionQuot_inter_left_iff (F : IdealFilter A) (L K : Ideal A) :
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
lemma isTorsionQuot_inf_left_iff (F : IdealFilter A) (L K : Ideal A) :
```
And the lemma should be swapped and (maybe) tagged simp.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,262 @@
...
+    · have hcol := colon_inf_eq_of_mem (L := L) (K := K) (k := k) h_k
+      simpa [hcol] using h_I_le
+  · intro h k h_k
+    rcases h k h_k with ⟨I, h_I, h_I_le⟩
+    refine ⟨I, h_I, ?_⟩
+    · have hcol := colon_inf_eq_of_mem (L := L) (K := K) (k := k) h_k
+      simpa [hcol] using h_I_le
+
+/-- Unfolding lemma for `IsTorsion`. -/
+@[simp] lemma isTorsion_def (F : IdealFilter A) (M : Type v) [AddCommMonoid M] [Module A M] :
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]: I don't think this should be a simp lemma. It feels weird introducing a new predicate just to simp away from it.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,262 @@
...
+    IsTorsion F M ↔ ∀ m : M, IsTorsionElem F m :=
+  Iff.rfl
+
+/-- Unfolding lemma for `IsTorsionQuot`. -/
+@[simp] lemma isTorsionQuot_def (F : IdealFilter A) (L K : Ideal A) :
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]: Same for this.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,262 @@
...
+  Iff.rfl
+
+/-- If `x ∈ I`, then the colon ideal `I.colon (Ideal.span {x})` is the whole ring. -/
+lemma colon_span_singleton_eq_top_of_mem {I : Ideal A} {x : A} (h_x : x ∈ I) :
+    I.colon (Ideal.span {x}) = ⊤ := by
+  apply (Ideal.eq_top_iff_one (I.colon (Ideal.span {x}))).mpr
+  apply Submodule.mem_colon.mpr
+  intro p h_p
+  refine (Ideal.span_singleton_le_iff_mem I).mpr h_x ?_
+  simp only [one_smul, h_p]
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]: Again you only need `J ≤ I` then `I.colon J = ⊤` and this also shouldn't live here.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,262 @@
...
+`IsTorsionQuot`. -/
+lemma isTorsionQuot_self (F : IdealFilter A) (I : Ideal A) :
+    IsTorsionQuot F I I := by
+  intro x h_x
+  obtain ⟨J, h_J⟩ := F.nonempty
+  exact ⟨J, h_J, by simp [colon_span_singleton_eq_top_of_mem h_x]⟩
+
+/-- Monotonicity in the left ideal for `IsTorsionQuot`. -/
+lemma isTorsionQuot_mono_left (F : IdealFilter A)
+    {I J K : Ideal A} (I_leq_J : I ≤ J) : IsTorsionQuot F I K → IsTorsionQuot F J K := by
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
lemma IsTorsionQuot.mono_left {F : IdealFilter A}
    {I J K : Ideal A} (I_tors : IsTorsionQuot F I K) (I_leq_J : I ≤ J) : IsTorsionQuot F J K := by
```
So that you can write `H.mono_left` if `(H : IsTorsionQuot F I K)` later.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,262 @@
...
+    x ∈ (I ⊓ J).colon (Ideal.span s) := by
+  intro h_xI h_xJ
+  refine Submodule.mem_colon.mpr ?_
+  intro p h_p
+  exact ⟨Submodule.mem_colon.mp h_xI p h_p, Submodule.mem_colon.mp h_xJ p h_p⟩
+
+/-- The colon ideal distributes over `⊓` (intersection of ideals). -/
+lemma colon_inf (I J : Ideal A) (s : Set A) :
+    (I ⊓ J).colon (Ideal.span s)
+      = I.colon (Ideal.span s) ⊓ J.colon (Ideal.span s) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]: Again this works for all ideals `K = (Ideal.span s)` and this should not be here.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,262 @@
...
+      exact Order.PFilter.mem_of_le h_incl h_K
+    · exact ⟨I, h_I, isTorsionQuot_self F I⟩
+  · rintro ⟨h₁, h₂⟩
+    refine ⟨h₁, ?_⟩
+    rintro I ⟨J, h_J, h_colon⟩
+    rw [← h₂]
+    refine ⟨J, h_J, ?_⟩
+    intro x h_x
+    refine ⟨I.colon (Ideal.span {x}), h_colon x h_x, by simp⟩
+end IdealFilter
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
    refine ⟨I.colon (Ideal.span {x}), h_colon x h_x, by simp⟩

end IdealFilter
```

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 1 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Done. Generalized to `Ideal.colon_inf_eq_left_of_le` and moved to `Mathlib.RingTheory.Ideal.Colon`. Downstream uses updated.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 2 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Done. Renamed to `isTorsionQuot_inf_left_iff`, swapped the equivalence so it rewrites from `L ⊓ K` to `L`, and cleaned up the proof. I’ve left off simp tag for now since there are outstanding `#lint` issues.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 4 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Done. Removed `@[simp]` from the unfolding lemmas `isTorsion_def` and `isTorsionQuot_def`.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 5 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Done. Generalized `colon_span_singleton_eq_top_of_mem` to `Ideal.colon_eq_top_of_le`, moved it to `Mathlib.RingTheory.Ideal.Colon`, and updated downstream uses.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 6 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Done. Renamed to `IsTorsionQuot.mono_left`, updated the arguments so it can be used via dot-notation, and updated the downstream call.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 7 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Done. Removed `colon_inf` and helper from `IdealFilter.Basic`, replaced by `Submodule.colon_inf_left`. Also generalized `colon_inf_left` and `colon_inf_eq_left_of_le` to Submodules. Updated all downstream uses. Also fixed the spacing issue (next comment) while making these changes.

**Comment by farmanb** [comment]
> I wonder if we should just generalize `Submodule.colon` to
> 
> ```
> def colon (N : Submodule R M) (P : Set M) : Ideal R where
>   carrier := {r : R | (r • P : Set M) ⊆ N}
>   add_mem' ha hb :=
>     (Set.add_smul_subset _ _ _).trans ((Set.add_subset_add ha hb).trans_eq (by simp))
>   zero_mem' := (Set.zero_smul_set_subset P).trans (by simp)
>   smul_mem' r := by
>     simp only [Set.mem_setOf_eq, smul_eq_mul, mul_smul, Set.smul_set_subset_iff]
>     intro x hx y hy
>     exact N.smul_mem _ (hx hy)
> ```

I think this would be useful. I've opened a WIP PR (#33390) that generalizes `Submodule.colon` to `Set M` in the second slot (as above), updated the API, and fixed the downstream breaks. Feedback would be very much appreciated.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,213 @@
...
+        simpa using (⟨h_K₁ h_y₁, h_K₂ h_y₂⟩ : y ∈ I.colon {x} ⊓ J.colon {x})
+  · intro I J h_IJ ⟨K, h_K, h_IK⟩
+    exact ⟨K, h_K, isTorsionQuot_mono_left F h_IJ h_IK⟩
+
+/-- `gabrielComposition F G` is the Gabriel composition of ideal filters `F` and `G`. -/
+def gabrielComposition (F G : IdealFilter A) : IdealFilter A :=
+  (isPFilter_gabrielComposition F G).toPFilter
+
+/-- `F • G` is the Gabriel composition of ideal filters `F` and `G`. -/
+infixl:70 " • " => gabrielComposition
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
scoped infixl:70 " • " => gabrielComposition
```

Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Added `scoped` to the `gabrielComposition` notation.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,213 @@
...
+  /-- If `I ∈ F`, then for every `a : A` the colon ideal `I.colon {a}`
+  also belongs to `F`. -/
+  colon_closed {I : Ideal A} (h_I : I ∈ F) (a : A) : (I.colon {a}) ∈ F
+
+namespace IsUniform
+
+/-- Convenience lemma for `colon_closed`. -/
+lemma colon_mem {F : IdealFilter A} (h : F.IsUniform) {I : Ideal A} (h_I : I ∈ F) (a : A) :
+    I.colon {a} ∈ F :=
+  h.colon_closed h_I a
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]: What's the difference between this and `IsUniform.colon_closed`? I think you should just rename `colon_closed` to `colon_mem`.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,213 @@
...
+
+namespace IdealFilter
+
+variable {A : Type u} [Ring A]
+
+/-- A filter of ideals is *uniform* if it is closed under colon by principal ideals. -/
+structure IsUniform (F : IdealFilter A) : Prop where
+  /-- If `I ∈ F`, then for every `a : A` the colon ideal `I.colon {a}`
+  also belongs to `F`. -/
+  colon_closed {I : Ideal A} (h_I : I ∈ F) (a : A) : (I.colon {a}) ∈ F
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
  colon_closed {I : Ideal A} (h_I : I ∈ F) (a : A) : I.colon {a} ∈ F
```

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,213 @@
...
+-/
+
+@[expose] public section
+
+open scoped Pointwise
+
+universe u v
+
+/-- `IdealFilter A` is the type of `Order.PFilter`s on the lattice of ideals of `A`. -/
+abbrev IdealFilter (A : Type u) [Ring A] := Order.PFilter (Ideal A)
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
abbrev IdealFilter (A : Type*) [Ring A] := Order.PFilter (Ideal A)
```
We prefer this unless there are universe shenanigans going on. Same below.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,213 @@
...
+
+/-- Unfolding lemma for `IsTorsion`. -/
+@[simp] lemma isTorsion_def (F : IdealFilter A) (M : Type v) [AddCommMonoid M] [Module A M] :
+    IsTorsion F M ↔ ∀ m : M, IsTorsionElem F m :=
+  Iff.rfl
+
+/-- Unfolding lemma for `IsTorsionQuot`. -/
+@[simp] lemma isTorsionQuot_def (F : IdealFilter A) (L K : Ideal A) :
+    IsTorsionQuot F L K ↔ ∀ k ∈ (K : Set A), ∃ I ∈ F, I ≤ L.colon {k} :=
+  Iff.rfl
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]: Iff lemmas should have implicit arguments.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,213 @@
...
+
+/-- For any filter `F` and ideal `J`, the quotient `J/J` is `F`-torsion in the sense of
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
/-- For any filter `F` and ideal `I`, the quotient `I/I` is `F`-torsion in the sense of
```
To match the variables in the lemma.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,213 @@
...
+`IsTorsionQuot`. -/
+lemma isTorsionQuot_self (F : IdealFilter A) (I : Ideal A) :
+    IsTorsionQuot F I I := by
+  intro x hx
+  obtain ⟨J, h_J⟩ := F.nonempty
+  exact ⟨J, h_J, le_of_le_of_eq le_top (by simpa [eq_comm])⟩
+
+
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion

```

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,213 @@
...
+/-- Monotonicity in the left ideal for `IsTorsionQuot`. -/
+lemma isTorsionQuot_mono_left (F : IdealFilter A)
+    {I J K : Ideal A} (I_leq_J : I ≤ J) : IsTorsionQuot F I K → IsTorsionQuot F J K := by
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
    {I J K : Ideal A} (I_leq_J : I ≤ J) (I_tors : IsTorsionQuot F I K) : IsTorsionQuot F J K := by
```
We prefer having arguments in the left of the colon.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,213 @@
...
+  intro I_tors x h_x
+  obtain ⟨L, ⟨L_in_F, h_L⟩⟩ := I_tors x h_x
+  refine ⟨L, L_in_F, ?_⟩
+  intro y h_y
+  refine Submodule.mem_colon.mpr ?_
+  intro a h_a
+  exact I_leq_J (Submodule.mem_colon.mp (h_L h_y) a h_a)
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
  exact fun _ h ↦ (I_tors _ h).imp fun _ ↦ And.imp_right (le_trans · (Submodule.colon_mono I_leq_J .rfl))
```

Comment (erdOne) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Also we usually name hypothesis in lemmas without underscores but this is a very minor point.
(e.g. `I_leq_J` would usually just be `hIJ`)

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,213 @@
...
+`IsTorsionQuot`. -/
+lemma isTorsionQuot_self (F : IdealFilter A) (I : Ideal A) :
+    IsTorsionQuot F I I := by
+  intro x hx
+  obtain ⟨J, h_J⟩ := F.nonempty
+  exact ⟨J, h_J, le_of_le_of_eq le_top (by simpa [eq_comm])⟩
+
+
+/-- Monotonicity in the left ideal for `IsTorsionQuot`. -/
+lemma isTorsionQuot_mono_left (F : IdealFilter A)
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
lemma IsTorsionQuot.mono_left {F : IdealFilter A}
```
If you put it in the `IsTorsionQuot` namespace you could use dot notation on the hypothesis. And Since `F` can be inferred from `I_tors` we can make it implicit.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,213 @@
...
+    refine ⟨I ⊓ J, ?_, inf_le_left, inf_le_right⟩
+    · refine ⟨K ⊓ L, ?_, ?_⟩
+      · exact Order.PFilter.inf_mem h_K h_L
+      · rintro x h_x
+        rcases h_x with ⟨x_K, x_L⟩
+        obtain ⟨K₁, h_K₁F, h_K₁⟩ := h_IK x x_K
+        obtain ⟨K₂, h_K₂F, h_K₂⟩ := h_JL x x_L
+        refine ⟨K₁ ⊓ K₂, Order.PFilter.inf_mem h_K₁F h_K₂F, ?_⟩
+        rintro y ⟨h_y₁, h_y₂⟩
+        simpa using (⟨h_K₁ h_y₁, h_K₂ h_y₂⟩ : y ∈ I.colon {x} ⊓ J.colon {x})
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]: You should add
```lean
lemma IsTorsionQuot.mono_right {F : IdealFilter A}
    {I J K : Ideal A} (hJK : J ≤ K) (hI : IsTorsionQuot F I K) : IsTorsionQuot F I J :=
  fun x hx ↦ hI x (hJK hx) 

lemma IsTorsionQuot.inf {F : IdealFilter A}
    {I J K : Ideal A} (hI : IsTorsionQuot F I K) (hJ : IsTorsionQuot F J K) :
    IsTorsionQuot F (I ⊓ J) K := by
  intro x hx
  obtain ⟨I', hI'F, hI'x⟩ := hI x hx
  obtain ⟨J', hJ'F, hJ'x⟩ := hJ x hx
  exact ⟨_, F.inf_mem hI'F hJ'F, (inf_le_inf hI'x hJ'x).trans Submodule.inf_colon.ge⟩
```
Then this is just
```suggestion
    exact ⟨K ⊓ L, G.inf_mem h_K h_L,
      (h_IK.mono_right inf_le_left).inf (h_JL.mono_right inf_le_right)⟩
```

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,213 @@
...
+      rcases h_tors x h_x with ⟨K, h_K, h_incl⟩
+      exact Order.PFilter.mem_of_le h_incl h_K
+    · exact ⟨I, h_I, isTorsionQuot_self F I⟩
+  · rintro ⟨h₁, h₂⟩
+    refine ⟨h₁, ?_⟩
+    rintro I ⟨J, h_J, h_colon⟩
+    rw [← h₂]
+    refine ⟨J, h_J, ?_⟩
+    intro x h_x
+    refine ⟨I.colon {x}, h_colon x h_x, by simp⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
    exact h₂.le ⟨J, h_J, fun x h_x ↦ ⟨I.colon {x}, h_colon x h_x, by simp⟩⟩
```

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 21]
```diff
@@ -0,0 +1,213 @@
...
+    · rcases h_I with ⟨J,h_J, h_tors⟩
+      unfold IsTorsionQuot at h_tors
+      refine h₂ I ⟨J, h_J, ?_⟩
+      intro x h_x
+      rcases h_tors x h_x with ⟨K, h_K, h_incl⟩
+      exact Order.PFilter.mem_of_le h_incl h_K
+    · exact ⟨I, h_I, isTorsionQuot_self F I⟩
+  · rintro ⟨h₁, h₂⟩
+    refine ⟨h₁, ?_⟩
+    rintro I ⟨J, h_J, h_colon⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
  · refine fun ⟨h₁, h₂⟩ ↦ ⟨h₁, fun I ⟨J, h_J, h_colon⟩ ↦ ?_⟩
```

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,213 @@
...
+theorem isGabriel_iff (F : IdealFilter A) : F.IsGabriel ↔ F.IsUniform ∧ F • F = F := by
+  constructor
+  · rintro ⟨h₁, h₂⟩
+    refine ⟨h₁, ?_⟩
+    ext I
+    constructor <;> intro h_I
+    · rcases h_I with ⟨J,h_J, h_tors⟩
+      unfold IsTorsionQuot at h_tors
+      refine h₂ I ⟨J, h_J, ?_⟩
+      intro x h_x
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
      refine h₂ I ⟨J, h_J, fun x h_x ↦ ?_⟩
```

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,213 @@
...
+/-- Characterization of Gabriel filters via `IsUniform` and idempotence of
+`gabrielComposition`. -/
+theorem isGabriel_iff (F : IdealFilter A) : F.IsGabriel ↔ F.IsUniform ∧ F • F = F := by
+  constructor
+  · rintro ⟨h₁, h₂⟩
+    refine ⟨h₁, ?_⟩
+    ext I
+    constructor <;> intro h_I
+    · rcases h_I with ⟨J,h_J, h_tors⟩
+      unfold IsTorsionQuot at h_tors
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
```

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,213 @@
...
+
+/-- Characterization of Gabriel filters via `IsUniform` and idempotence of
+`gabrielComposition`. -/
+theorem isGabriel_iff (F : IdealFilter A) : F.IsGabriel ↔ F.IsUniform ∧ F • F = F := by
+  constructor
+  · rintro ⟨h₁, h₂⟩
+    refine ⟨h₁, ?_⟩
+    ext I
+    constructor <;> intro h_I
+    · rcases h_I with ⟨J,h_J, h_tors⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
    · rcases h_I with ⟨J, h_J, h_tors⟩
```

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 10 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: You're right. I don't think `colon_mem` was really doing anything. I've renamed `IsUniform.colon_closed` to `IsUniform.colon_mem` and removed the lemma.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 12 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Done. I’ve switched to `Type*` throughout

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 14 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Thanks for catching that one.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 13 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Fixed.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 16 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Fixed

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 17 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: I've gone through and fixed (I think) all of those names.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 18 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Fixed.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 19 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Added the two lemmas and adjusted the proof.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 20 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Changed.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 21 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Change made.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 22 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Done.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 23 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Done.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 24 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Done.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 11 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Done.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 25]
```diff
@@ -0,0 +1,193 @@
...
+/-- Characterization of Gabriel filters via `IsUniform` and idempotence of
+`gabrielComposition`. -/
+theorem isGabriel_iff (F : IdealFilter A) : F.IsGabriel ↔ F.IsUniform ∧ F • F = F := by
+  constructor
+  · rintro ⟨h₁, h₂⟩
+    refine ⟨h₁, ?_⟩
+    ext I
+    constructor <;> intro hI
+    · rcases hI with ⟨J, hJ, htors⟩
+      unfold IsTorsionQuot at htors
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]:
```suggestion
```

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 26]
```diff
@@ -0,0 +1,193 @@
...
+  exact ⟨J, hJ, le_of_le_of_eq le_top (by simpa [eq_comm])⟩
+
+/-- Monotonicity in the left ideal for `IsTorsionQuot`. -/
+lemma isTorsionQuot.mono_left {F : IdealFilter A}
+    {I J K : Ideal A} (hIJ : I ≤ J) (I_tors : IsTorsionQuot F I K) : IsTorsionQuot F J K :=
+  fun _ h ↦ (I_tors _ h).imp fun _ ↦ And.imp_right (le_trans · (Submodule.colon_mono hIJ .rfl))
+
+lemma IsTorsionQuot.mono_right {F : IdealFilter A}
+    {I J K : Ideal A} (hJK : J ≤ K) (hI : IsTorsionQuot F I K) : IsTorsionQuot F I J :=
+  fun x hx ↦ hI x (hJK hx)
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]: Maybe we should have `mono` for both left and right.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 27]
```diff
@@ -0,0 +1,193 @@
...
+/-- We say that the quotient `K/L` is `F`-torsion if every element `k ∈ K` is annihilated
+(modulo `L`) by some ideal in `F`.  Equivalently, for each `k ∈ K` there exists `I ∈ F`
+such that `I ≤ L.colon {k}`. That is to say, every `a ∈ I` satisfies `a * k ∈ L`.
+This formulation avoids forming the quotient module explicitly. -/
+def IsTorsionQuot (F : IdealFilter A) (L K : Ideal A) : Prop :=
+  ∀ k ∈ K, ∃ I ∈ F, I ≤ L.colon {k}
+
+/-- Intersecting the left ideal with `K` does not change `IsTorsionQuot` on the right. -/
+lemma isTorsionQuot_inter_left_iff {F : IdealFilter A} {L K : Ideal A} :
+    IsTorsionQuot F L K ↔ IsTorsionQuot F (L ⊓ K) K := by
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]: The iff should be swapped.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 26 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: I've added `mono` for the combined left/right. I realized `mono_right` isn't quite accurate since it's actually antitone; I've changed it to `anti_right`. Fixed the capitalization on `IsTorsionQuot.mono_left` as well.

Comment (erdOne) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: To me, monotonically increasing and monotonically decreasing are both monotone and the name `mono` would be more predictable to me. But this is a very minor point and it is up to you.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 28]
```diff
@@ -0,0 +1,198 @@
...
+
+## Implementation notes
+
+In the classical literature (e.g. Stenström), *right linear topologies* on a ring are often
+described via filters of open **right** ideals, and the terminology is frequently abused by
+identifying the topology with its filter of ideals.
+
+In this development we work systematically with **left ideals**. Accordingly, Stenström’s
+right-ideal construction `(L : a) = {x ∈ A | a * x ∈ L}` is replaced by the left ideal
+`L.colon {a} = {a | x * a ∈ L}`, implemented using preimages under right multiplication.
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]: This is not true anymore.

**Review by erdOne — COMMENTED** [review]
I have a slight feeling that the docstrings are a little bit too much. Of course documentation is nice, and if I were to choose between too much and too little documentation I would definitely err on the too much side.

But to me, docstrings are only necessary when they provide additional information that is not easily readable from the lemma name or the type signature, for example when a result has a name in the literature, has a mathematically more intuitive statement that is not apparent from the lean translation, some tips when using the result etc. 

In you docstring to `IsUniform.colon_mem` for example, "If `I ∈ F`, then for every `a : A` the colon ideal `I.colon {a}`  also belongs to `F`" is literally the type signature `∀ I ∈ F, ∀ a, I.colon {a} ∈ F` but less concise and less readable and I would tend to claim that this adds little value. the docstrings for `mono_left` and `anti_right` etc might also fall in this category. Such excessive docstrings would be an information overload and obscures the actual important docstrings that the users should read when they want to use the API.

Of course, "easily readable from the lemma name or the type signature" is actually quite subjective as it depends on one's prior knowledge of the library or the mathematics behind it, and ultimately it is up to you to decide if the docstrings are valuable or not. I merely would like to ask you to consider whether you personally find them valuable or not if this question hadn't yet crossed your mind. I am perfectly fine if you prefer keeping all of them in the end.

File: Mathlib/RingTheory/IdealFilter/Basic.lean [hunk 29]
```diff
@@ -0,0 +1,198 @@
...
+
+/-- We say that an `A`-module `M` is `F`-torsion if every element of `M` is `F`-torsion in the
+sense of `IsTorsionElem`. -/
+def IsTorsion (F : IdealFilter A)
+    (M : Type*) [AddCommMonoid M] [Module A M] : Prop :=
+  ∀ m : M, IsTorsionElem F m
+
+/-- We say that the quotient `K/L` is `F`-torsion if every element `k ∈ K` is annihilated
+(modulo `L`) by some ideal in `F`.  Equivalently, for each `k ∈ K` there exists `I ∈ F`
+such that `I ≤ L.colon {k}`. That is to say, every `a ∈ I` satisfies `a * k ∈ L`.
```
Comment (erdOne) [inline Mathlib/RingTheory/IdealFilter/Basic.lean]: I'm not sure if the two spaces after the full stop was intended or not. I think we usually don't do this in mathlib but if you prefer so I think we should at least be consistent on this in the same docstring.

**Review by erdOne — APPROVED** [review]
LGTM modulo some very minor issues.

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 26 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Ah, I see. I don't have a preference. I had run across `Antitone` in `Mathlib.Order.Monotone.Defs`, noticed usage of `anti_` (e.g. `Nat.log_anti_left`), and had just assumed that was a common pattern. I'll defer to your expertise here, so I'm happy to switch it back to `mono_right` if you think that would be better

File: Mathlib/RingTheory/IdealFilter/Basic.lean (hunk 29 above)
Comment (farmanb) [reply Mathlib/RingTheory/IdealFilter/Basic.lean]: Not intentional. Fixed that and another instance.

**Comment by farmanb** [comment]
> I have a slight feeling that the docstrings are a little bit too much. Of course documentation is nice, and if I were to choose between too much and too little documentation I would definitely err on the too much side.

@erdOne: Thank you for the all the detailed feedback. It has been very helpful.

I agree that several of the docstrings were unnecessary. I think I initially tried to document *everything* instead of just what needed it. I made a pass through the doctrings to trim and clarify. I've left only the ones that I think add value (context, intent, English-language explanations that might be easier to parse than the signature, etc.). I hope this is an improvement.

**Review by erdOne — APPROVED** [review]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
